US05264577
Step A: Preparation of α-Acetylamino-10,11-dihydro-5H dibenzo[a,d]cycloheptene-5-acetic acid
α-Amino-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetic acid, hydrochloride (5.0 g, 16.5 mmol) is dissolved in 1N sodium hydroxide (70 mL) and 50 mL of water, cooled in an ice bath, and treated with acetic anhydride (2.3 mL, 25 mmol) keeping pH at 10 to 10.5. The mixture is stirred for an additional 20 minutes, then the pH is adjusted to 3 to 4 with concentrated hydrochloric acid. A precipitate is collected, washed with water, diethyl ether, and dried in a vacuum oven (50° C./10 mm Hg). The dried solid is recrystallized from ethyl acetatehexane to give 2.41 g of the title compound; mp 220°-223° C.

reactant | α-Amino-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetic acid, hydrochloride | 16.5 mmol, 5.0 g | Cl.NC(C(=O)O)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2
reactant | acetic anhydride | 25 mmol, 2.3 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 70 mL | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | α-Acetylamino-10,11-dihydro-5H dibenzo[a,d]cycloheptene-5-acetic acid | 2.41 g | C(C)(=O)NC(C(=O)O)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C19H19NO3
